US07612055B2
a) 2-But-3-enylamino-6-methyl-isonicotinic acid examples 5 and 13a
A solution of 86 mg (0.33 mmol) 2-but-3-enylamino-6-methyl-isonicotinic acid tert-butyl ester in 2 ml TFA is stirred for 18 h and evaporated. The title compound thus obtained is used in the next step without further purification.

reactant | 2-but-3-enylamino-6-methyl-isonicotinic acid tert-butyl ester | 0.33 mmol, 86 mg | C(C)(C)(C)OC(C1=CC(=NC(=C1)C)NCCC=C)=O | C15H22N2O2
solvent | TFA | 2 ml | C(=O)(C(F)(F)F)O | C2HF3O2
product | 2-But-3-enylamino-6-methyl-isonicotinic acid | C(CC=C)NC=1C=C(C(=O)O)C=C(N1)C | C11H14N2O2
